US07678818B2
To a solution of 2.389 g of 2-chloro-4-trimethylsilanylethynyl-pyridine (11.39 mmol) in THF (90 ml) were added 11.39 ml of a 1M TBAF solution in THF at −78° C. and the reaction mixture was stirred for 45 min at 0° C. Then saturated NH4Cl solution was added and the THF was removed under reduced pressure. The aqueous mixture was extracted with diethylether and the combined organic extracts were washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The remaining residue was purified by column chromatography (pentane/diethylether 100:0 to 4:1) to give 2-chloro-4-ethynyl-pyridine (1.427 g, 91%) as an off-white solid. 1H-NMR (CDCl3, 300 MHz): δ 3.36 (s, 1H), 7.27 (dd, J=5 and 1 Hz, 2H), 7.40 (br s, 1H), 8.37 (d, J=8 Hz, 2H).

reactant | 2-chloro-4-trimethylsilanylethynyl-pyridine | 11.39 mmol, 2.389 g | ClC1=NC=CC(=C1)C#C[Si](C)(C)C | C10H12ClNSi
reactant | TBAF | 1M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-ethynyl-pyridine | 1.427 g, 91% | ClC1=NC=CC(=C1)C#C | C7H4ClN
